US08748443B2
Part A. Preparation of 4-iodo-2-(trifluoromethyl)phenol
A solution of 2-trifluoromethylphenol (10 g, 61.7 mmol) in methanol (125 mL) at room temperature was treated with sodium hydroxide (13.87 g, 93 mmol) and stirred until homogeneous. The mixture was cooled in an ice bath and sodium iodide (2.96 g, 74 mmol) was added portionwise followed by the addition of 10% sodium hypochlorite (84 mL, 136 mmol) dropwise, dividing these reagents into 3 portions and adding them sequentially over 30 minutes. The solution was then adjusted to pH 1 by dropwise addition of concentrated hydrochloric acid and poured into brine. The product was extracted into ethyl acetate, concentrated in vacuo and purified by silica gel flash chromatography eluting with ethyl acetate/hexane (0% to 5%) to give the title compound.

reactant | 2-trifluoromethylphenol | 61.7 mmol, 10 g | FC(C1=C(C=CC=C1)O)(F)F | C7H5F3O
reactant | sodium hydroxide | 93 mmol, 13.87 g | [OH-].[Na+]
reactant | sodium iodide | 74 mmol, 2.96 g | [I-].[Na+]
reactant | sodium hypochlorite | 136 mmol, 84 mL | Cl[O-].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | methanol | 125 mL | CO | CH4O
solvent | brine | [Cl-].[Na+].O
product | 4-iodo-2-(trifluoromethyl)phenol | IC1=CC(=C(C=C1)O)C(F)(F)F | C7H4F3IO
